* Champion H1 topology: RC-ranked packet gate.

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/source_pair_models.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/startup_cells.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/packet_scout_blocks.inc"

.param VLEVEL=20m
.param VOC_A={VLEVEL}
.param VOC_B={VLEVEL}
.param R_UNIT=1k
.param RATIO=20
.param R_A=1000.0
.param R_B=20000.0
.param POL_A=1
.param POL_B=1
.param RAMP_MVPS=10
.param C_STORE=10u
.param R_LOAD=100meg
.param V_HANDOFF=1.2
.param V_HANDOFF_FALL=1.0
.param TSTOP=2.5

VMEAS_A src_a_p n_src_a_p 0
VMEAS_B src_b_p n_src_b_p 0
XSOURCES src_a_p n_src_a_n src_b_p n_src_b_n source_pair

BMON_A n_src_a 0 V = { V(n_src_a_p,n_src_a_n) }
BMON_B n_src_b 0 V = { V(n_src_b_p,n_src_b_n) }
RREF_A n_src_a_n 0 1g
RREF_B n_src_b_n 0 1g

XROUTE_A n_src_a_p n_src_a_n n_a_bus_p n_a_bus_n fw_router
XROUTE_B n_src_b_p n_src_b_n n_b_bus_p n_b_bus_n fw_router

VCTRL_MON n_store n_ctrl 0
XCORE n_a_bus_p n_a_bus_n n_b_bus_p n_b_bus_n n_store n_ctrl n_handoff rc_rank_packet_gate

CSTORE n_store 0 {C_STORE} ic=0
RLOAD n_store 0 {R_LOAD}


BPAWR_A pwr_back_a 0 V = { neg(V(n_src_a_p,n_src_a_n) * I(VMEAS_A)) }
BPAWR_B pwr_back_b 0 V = { neg(V(n_src_b_p,n_src_b_n) * I(VMEAS_B)) }
BPCTRL pwr_ctrl 0 V = { pos(V(n_store) * I(VCTRL_MON)) }
.measure tran vstore_final find v(n_store) at={TSTOP}
.measure tran t_handoff when v(n_handoff)=0.5 rise=1
.measure tran startup_ok param='(vstore_final >= V_HANDOFF)'
.measure tran t_metric_stop param='startup_ok > 0.5 ? t_handoff : TSTOP'
.measure tran e_back_a integ v(pwr_back_a) from=0 to='t_metric_stop'
.measure tran e_back_b integ v(pwr_back_b) from=0 to='t_metric_stop'
.measure tran e_backdrive param='e_back_a + e_back_b'
.measure tran e_ctrl integ v(pwr_ctrl) from=0 to='t_metric_stop'
.tran 0.0005 2.5 0 0.0005
.end
